US04127720
A. Diethyl 4-Methoxyisoquinolylaminomethylenemalonate
A mixture of 1-amino-4-methoxyisoquinoline (297 mg., 1.7 mmoles) and diethyl ethoxymethylenemalonate (370 mg., 1.7 mmoles) was plunged into an oil bath at 110° and kept there for 6 minutes. The mixture melted and then solidified. The crude product, m.p. 150°-153°, was used without purification.

reactant | 1-amino-4-methoxyisoquinoline | 1.7 mmoles, 297 mg | NC1=NC=C(C2=CC=CC=C12)OC | C10H10N2O
reactant | diethyl ethoxymethylenemalonate | 1.7 mmoles, 370 mg | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 4-Methoxyisoquinolylaminomethylenemalonate | COC1=CN=C(C2=CC=CC=C12)NC=C(C(=O)OCC)C(=O)OCC | C18H20N2O5
